US09193935B2
2-(5-(3-Isopropylphenyl)hex-2-en-2-yl)naphthalene
A solution of 1-(2-naphthyl)ethyltriphenylphosphonium bromide (2.30 g, 4.62 mmol, 1.0 equiv.) in THF (16 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 2.9 mL, 4.62 mmol, 1.0 equiv.) at 0° C., the red-brown suspension was stirred at 0° C. for 15 min. 3-(3-Isopropylphenyl)butanal (1.32 g, 6.94 mmol, 1.5 equiv.) in THF (2 mL) was added, and the mixture was stirred at 0° C.→70° C. for 18 h. After addition of H2O, the aqueous layer was extracted with hexanes (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3) to yield 0.57 g (38%) of the title compound as a colorless viscous oil.

reactant | 1-(2-naphthyl)ethyltriphenylphosphonium bromide | 4.62 mmol, 2.30 g, 1.0 equiv. | [Br-].C1=C(C=CC2=CC=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.62 mmol, 1.6 M, 2.9 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(3-Isopropylphenyl)butanal | 6.94 mmol, 1.32 g, 1.5 equiv. | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
reactant | H2O | O | H2O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(5-(3-Isopropylphenyl)hex-2-en-2-yl)naphthalene | 0.57 g, 38% | C(C)(C)C=1C=C(C=CC1)C(CC=C(C)C1=CC2=CC=CC=C2C=C1)C | C25H28
